US06664247B2
The above-prepared (2-chloroquinazolin-4-yl)-(5-methyl-2H-pyrazol-3-yl)-amine (155 mg, 0.6 mmol) and 3-chloroaniline (0.316 mL, 2.99 mmol) are refluxed in tert-butanol (3 mL) over 20 h. The mixture is concentrated in vacuo and the residue is suspended in EtOH/H2O (1 mL/3 mL). K2CO3 (83 mg, 0.6 mmol) is added and the suspension is stirred for 2 h at room temperature. The solid that forms is collected and dried under vacuum to give the product [2-(3-chlorophenylamino)-quinazolin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine.

reactant | (2-chloroquinazolin-4-yl)-(5-methyl-2H-pyrazol-3-yl)-amine | 0.6 mmol, 155 mg | ClC1=NC2=CC=CC=C2C(=N1)NC=1NN=C(C1)C | C12H10ClN5
reactant | 3-chloroaniline | 2.99 mmol, 0.316 mL | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | K2CO3 | 0.6 mmol, 83 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | tert-butanol | 3 mL | C(C)(C)(C)O | C4H10O
product | [2-(3-chlorophenylamino)-quinazolin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine | ClC=1C=C(C=CC1)NC1=NC2=CC=CC=C2C(=N1)NC=1NN=C(C1)C | C18H15ClN6
